Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o F with history of HTN, diabetes presents with chief
complaint of syncope.

She states she was preparing breakfast at work this morning when
she felt mild epigastric discomfort and heart racing. She sat
down and then collapsed forward, striking her right forehead on
the ground. Per bystanders, she did not have any seizure like
activity, urinary incontinence. Upon awaking, she noted headache
at the site where she struck her head, but otherwise no
confusion, amnesia, N/V. 

Of note, she has a history of multiple recent similar episodes.
She first established primary care on ___ where she endorsed 5
lifetime episodes of syncope, starting ___ years ago and most
recent on the day of her visit. During that visit, she described
that on her way to work that morning, she had 15 minutes of
epigastric discomfort as well as discomfort in her right
posterior neck at the base of her scalp. On arrival to work, she
was walking behind her coworker and then next remembers waking 
up
on the ground. Coworkers did not note any seizure like activity.
Her family also confirmed that they have witnessed prior 
episodes
of sudden loss of consciousness, fall to the ground, 1 min
unresponsiveness and then waking up. These episodes are 
typically
not accompanied by chest pain or palpitations, with the 
exception
of the episode this morning. 

She was then seen again on ___ where she notes an additional
episode of syncope which occurred while she was having a bowel
movement, but  not bearing down. She also noted increased urine
output so her hydrochlorothiazide was held and planned to
uptitrate metformin.

Following this mornings episode, she presented to PCP, who
planned to arrange ___ monitor as an outpatient. However, given
recurrent nature of her symptoms, she was referred to the ED for
further evaluation.

She denies headache, visual change, difficulty speaking or
swallowing, numbness/tingling/weakness in any part of her body,
fevers, chills, cough. No other abdominal pain, no back pain, no
dysuria or diarrhea. Patient is eating and drinking normally. 

Patient does have a family history of coronary artery disease,
with both parents having MIs, mother in ___ and father in ___.
She has a brother with an MI in his ___. No personal family
history of arrhythmias as far as the patient is aware.

In the ED...  

- Initial vitals:  
97.2 85 134/82 18 100% RA 

- EKG:  
Normal sinus rhythm at 82 bpm, no axis deviation, PR 170, QRS 
94,
QTc 454, submillimeter ST elevations in V2, no delta wave, no
epsilon wave, no AV block, no QTC prolongation, no dagger like Q
waves, no Brugada sign, no change from prior

- Labs/studies notable for:  
CBC wnl
BMP notable for glucose 248
LFTs wnl

UA: Negative

- Patient was given:  
500 cc NS
Acetaminophen 650 mg

- Vitals on transfer:  
89 156/89 18 100% RA 
 
On the floor, she confirmed the above history. She notes that 
she
did have some palpitations yesterday while walking. She and her
daughter are very concerned about what might be causing these
episodes and she is scared that she may die.  
 
REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, syncope, or presyncope.  
 
On further review of systems, denies any prior history of 
stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain.
Denies recent fevers, chills or rigors. All of the other review
of systems were negative.  

 
Past Medical History:
PAST MEDICAL HISTORY  
====================  
1. CARDIAC RISK FACTORS  
- Diabetes
- Hypertension 
- Dyslipidemia

2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY
Syncope

 
Social History:
___
Family History:
Her family history is significant for a syncopal episode in her
father when he was in his ___, he later died of a CVA in his 
___.
Otherwise, no known cardiovascular disease, no family history of
sudden death to her knowledge.  No family history of seizure
disorder.

 
Physical Exam:
Admission
=========
VS: 98.3 132/77 70 16 96 RA 
GENERAL: NAD, lying in bed comfortably 
HEENT: AT/NC, anicteric sclera, MMM, bruising over right
forehead, under right eye, tenderness to palpation
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, CN II-XII intact
DERM: warm and well perfused, no excoriations or lesions, no
rashes

Discharge
=========
GENERAL: middle aged female, NAD, laying up in bed comfortably,
affect appropriate 
HEENT: right sided, sub-orbital evolving hematoma, anicteric
sclera, MMM, bruising over right forehead
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
 
Pertinent Results:
Admission Labs
==============
___ 03:20PM BLOOD WBC-9.7 RBC-3.96 Hgb-11.9 Hct-36.3 MCV-92 
MCH-30.1 MCHC-32.8 RDW-13.3 RDWSD-44.7 Plt ___
___ 03:20PM BLOOD ___ PTT-24.4* ___
___ 03:20PM BLOOD Glucose-248* UreaN-8 Creat-0.6 Na-141 
K-4.4 Cl-102 HCO3-26 AnGap-13
___ 03:20PM BLOOD ALT-14 AST-14 AlkPhos-60 TotBili-<0.2
___ 03:20PM BLOOD Albumin-4.1 Calcium-9.4 Phos-4.3 Mg-1.6

Discharge Labs
==============
___ 06:32AM BLOOD WBC-7.5 RBC-4.36 Hgb-13.1 Hct-39.5 MCV-91 
MCH-30.0 MCHC-33.2 RDW-13.2 RDWSD-43.9 Plt ___
___ 06:32AM BLOOD Glucose-246* UreaN-12 Creat-0.7 Na-140 
K-4.7 Cl-100 HCO3-30 AnGap-10
___ 06:32AM BLOOD Calcium-9.8 Phos-4.3 Mg-1.9

Imaging & Studies
=================
TTE ___
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. There is normal 
left ventricular wall thickness with a normal cavity size. There 
is normal regional and global left ventricular systolic 
function. Quantitative biplane left ventricular ejection 
fraction is 67 %. There is no left ventricular outflow tract 
gradient at rest or with Valsalva. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. There 
is no evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is mild to 
moderate [___] tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes, regional/global 
systolic function. Mild-moderate tricuspid regurgitation. Mild 
pulmonary artery systolic hypertension. No structural cardiac 
cause of syncope identified.

CT Head ___
IMPRESSION: 
1. No evidence for an acute intracranial abnormality. 
2. Small right frontal subgaleal hematoma.  No evidence for a 
displaced 
fracture. 

CXR ___
IMPRESSION:  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ y/o F with history of hypertension, dyslipidemia, diabetes 
and
recurrent syncope who presents for syncopal workup. Patient had 
no further events and no episodes on telemetry. TTE was normal. 
She will be discharged with a 2 week event monitor for further 
evaluation. 

Active Issues: 
==============
#Syncope
Pt has had approx. ___ episodes over past ___ years, with 3
episodes within last month. Common prodrome includes epigastric
discomfort, however some episodes occurred without a prodrome. 
Initially concerning for arrhythmia, she had no episodes on 
telemetry and TTE normal. Could be SVT vs Afib with conversion 
pause, but not captured during hospitalization. PE ruled out 
with negative D-dimer. No report of seizure-type activity during 
episodes. Will plan for outpatient event monitor for 2 weeks and 
cardiology follow up for consideration of LINQ if no events 
captured vs neurologic workup. 

CHRONIC ISSUES
==============
#Diabetes
Held metformin and placed on ISS. 

#Hypertension
Continued Enalapril 

#Hyperlipidemia
Continued Atorvastatin 

Transitional Issues
===================
[] Discharged with ___ for 2 weeks of monitoring. She 
will follow up with cardiology to discuss results of monitoring.
[] If ___ of Hearts negative, consider LINQ monitor if patient 
still with symptomatic episodes
[] Patient requested neurology follow up, if symptoms persist 
then would consider referral at PCP follow up appointment. 
# CODE: Full (presumed)
# CONTACT: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Enalapril Maleate 10 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Enalapril Maleate 10 mg PO DAILY 
RX *enalapril maleate 10 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
4.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Syncope

Secondary Diagnoses
===================
Hyperlipidemia
Hypertension
Type II Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You had several episodes of fainting. This was concerning for 
a problem with your heart. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We monitored your heart rhythm on a monitor and saw no further 
events
- We performed an ultrasound of your heart that showed a normal 
heart
- We set you up with a heart monitor for the next 2 weeks to 
record if you have any further events. 
 
WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Make sure to stay well hydrated
- Wear the heart monitor for the next 2 weeks. Please return the 
heart monitor per the instructions that were given to you 
separately. 
- Follow up with your primary care doctor and cardiologist. You 
can get a referral to a neurologist if the other workup is 
negative.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  

 
Followup Instructions:
___